US07671201B2
Step B Synthesis of 3,5-dichloro-4-{4-[3-(trifluoromethyl)phenyl]piperazinyl}phenol as an Intermediate
A suspension of 0.8 gram (0.011 mole) of sodium methanethiolate in 25 mL of DMF was stirred, and a solution of 1.8 grams (0.0044 mole) of 1,3-dichloro-5-methoxy-2-{4-[3-(trifluoromethyl)phenyl]piperazinyl}benzene in 40 mL of DMF was added. Upon completion of addition, the reaction mixture was heated to 100° C. where it stirred for two hours. After this time, the reaction mixture was cooled in an ice-water bath and 50 mL of water, followed by 25 mL of an aqueous solution of 10% hydrochloric acid, were added dropwise. The reaction mixture was then saturated with sodium chloride and extracted with two 50 mL portions of diethyl ether. The combined extracts were dried with sodium sulfate, filtered, and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using 1:1 methylene chloride:hexane, then 100% methylene chloride as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 1.1 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | sodium methanethiolate | 0.011 mole, 0.8 gram | C[S-].[Na+]
reactant | 1,3-dichloro-5-methoxy-2-{4-[3-(trifluoromethyl)phenyl]piperazinyl}benzene | 0.0044 mole, 1.8 grams | ClC1=C(C(=CC(=C1)OC)Cl)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C18H17Cl2F3N2O
reactant | water | 50 mL | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3,5-dichloro-4-{4-[3-(trifluoromethyl)phenyl]piperazinyl}phenol | 1.1 grams | ClC=1C=C(C=C(C1N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)Cl)O | C17H15Cl2F3N2O
